US07329658B2
Preparation of 1-[7-(2-Chlorophenyl)-8-(4-cyanophenyl)-2-methylpyrazolo[1,5-a][1,3,5]triazin-4-yl]-3-ethylaminoazetidine-3-carboxylic Acid Amide (6A-1)
A mixture of 1-[7-(2-chlorophenyl)-8-iodo-2-methylpyrazolo[1,5-a][1,3,5]triazin-4-yl]-3-ethylaminoazetidine-3-carboxylic acid amide (I-6A-1a; 50 mg, 0.098 mmol) and 4-cyanophenylboronic acid (22 mg, 0.15 mmol) in dioxane (0.8 ml) and 2M aqueous Na2CO3 (0.2 ml) was purged with nitrogen gas. Tetrakis(triphenylphosphine)palladium (12.5 mg, 0.01 mmol) was added and the mixture was heated at 68° C. for 4 days. After cooling to room temperature, the mixture was extracted from water with chloroform, the combined organic layers were washed with brine, dried (MgSO4), and then concentrated, in vacuo, to afford the crude product. Purification on a Combiflash® using 0.4% methanol/1% aqueous ammonium hydroxide in chloroform as eluant afforded 6A-1 (23 mg, 48%) as a solid: +ESI MS (M+1) 487.1; 1H NMR (400 MHz, CDCl3) δ 7.57 (d, J=8.7 Hz, 2H), 7.51 (d, J=8.7 Hz, 2H), 7.47-7.34 (m, 4H), 7.01 (d, J=4.6 Hz, 1H), 5.39 (d, J=4.6 Hz, 1H), 5.30 (br d, J=9.5 Hz, 1H), 4.80 (br d, J=8.7 Hz, 1H), 4.73 (br d, J=9.5 Hz, 1H), 4.18 (br d, J=8.7 Hz, 1H), 2.64 (t, J=7.0 Hz, 2H), 2.53 (s, 3H), 1.17 (t, J=7.0 Hz, 3H).

reactant | 1-[7-(2-chlorophenyl)-8-iodo-2-methylpyrazolo[1,5-a][1,3,5]triazin-4-yl]-3-ethylaminoazetidine-3-carboxylic acid amide | 0.098 mmol, 50 mg | ClC1=C(C=CC=C1)C1=NN2C(N=C(N=C2N2CC(C2)(C(=O)N)NCC)C)=C1I | C18H19ClIN7O
reactant | 4-cyanophenylboronic acid | 0.15 mmol, 22 mg | C(#N)C1=CC=C(C=C1)B(O)O | C7H6BNO2
solvent | dioxane | 0.8 ml | O1CCOCC1 | C4H8O2
solvent | Na2CO3 | 2M, 0.2 ml | C(=O)([O-])[O-].[Na+].[Na+]
catalyst | Tetrakis(triphenylphosphine)palladium | 0.01 mmol, 12.5 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 1-[7-(2-Chlorophenyl)-8-(4-cyanophenyl)-2-methylpyrazolo[1,5-a][1,3,5]triazin-4-yl]-3-ethylaminoazetidine-3-carboxylic Acid Amide | ClC1=C(C=CC=C1)C1=NN2C(N=C(N=C2N2CC(C2)(C(=O)N)NCC)C)=C1C1=CC=C(C=C1)C#N | C25H23ClN8O
